### PR TITLE
[Merged by Bors] - feat: port Data.Multiset.Basic

### PR DESCRIPTION
**Pull request by jcommelin**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib.lean [hunk 1]
```diff
@@ -278,6 +278,7 @@ import Mathlib.Data.List.Sections
 import Mathlib.Data.List.TFAE
 import Mathlib.Data.List.Zip
 import Mathlib.Data.Multiset.Basic
+import Mathlib.Data.Multiset.Basic
```
Comment (Ruben-VandeVelde) [inline Mathlib.lean:281]:
```suggestion
```

File: Mathlib/Data/Multiset/Basic.lean [hunk 2]
```diff
@@ -17,16 +25,3137 @@ variable {α : Type _} {β : Type _} {γ : Type _}
...
+/-! ### `multiset.cons` -/
+
+
+/-- `cons a s` is the multiset which contains `s` plus one more
+  instance of `a`. -/
+def cons (a : α) (s : Multiset α) : Multiset α :=
+  Quot.liftOn s (fun l => (a :: l : Multiset α)) fun _ _ p => Quot.sound (p.cons a)
+#align multiset.cons Multiset.cons
+
+-- mathport name: «expr ::ₘ »
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Multiset/Basic.lean:123]:
```suggestion
```

File: Mathlib/Data/Multiset/Basic.lean [hunk 3]
```diff
@@ -17,16 +25,3137 @@ variable {α : Type _} {β : Type _} {γ : Type _}
...
+theorem cons_inj_left {a b : α} (s : Multiset α) : a ::ₘ s = b ::ₘ s ↔ a = b :=
+  ⟨(Quot.inductionOn s) fun l e =>
+      have : [a] ++ l ~ [b] ++ l := Quotient.exact e
+      singleton_perm_singleton.1 <| (perm_append_right_iff _).1 this,
+    congr_arg _⟩
+#align multiset.cons_inj_left Multiset.cons_inj_left
+
+@[simp]
+theorem cons_inj_right (a : α) : ∀ {s t : Multiset α}, a ::ₘ s = a ::ₘ t ↔ s = t := by
+  rintro ⟨l₁⟩ ⟨l₂⟩ <;> simp
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Multiset/Basic.lean:149]:
```suggestion
  rintro ⟨l₁⟩ ⟨l₂⟩; simp
```

File: Mathlib/Data/Multiset/Basic.lean [hunk 4]
```diff
@@ -17,16 +25,3137 @@ variable {α : Type _} {β : Type _} {γ : Type _}
...
+#align multiset.cons_inj_right Multiset.cons_inj_right
+
+@[recursor 5]
+protected theorem induction {p : Multiset α → Prop} (h₁ : p 0)
+    (h₂ : ∀ ⦃a : α⦄ {s : Multiset α}, p s → p (a ::ₘ s)) : ∀ s, p s := by
+  rintro ⟨l⟩ <;> induction' l with _ _ ih <;> [exact h₁, exact h₂ ih]
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Multiset/Basic.lean:155]:
```suggestion
  rintro ⟨l⟩; induction' l with _ _ ih <;> [exact h₁, exact h₂ ih]
```

File: Mathlib/Data/Multiset/Basic.lean [hunk 5]
```diff
@@ -17,16 +25,3137 @@ variable {α : Type _} {β : Type _} {γ : Type _}
...
+theorem cons_eq_cons {a b : α} {as bs : Multiset α} :
+    a ::ₘ as = b ::ₘ bs ↔ a = b ∧ as = bs ∨ a ≠ b ∧ ∃ cs, as = b ::ₘ cs ∧ bs = a ::ₘ cs :=
+  by
+  haveI : DecidableEq α := Classical.decEq α
+  constructor
+  · intro eq
+    by_cases a = b
+    · subst h
+      simp_all
+    · have : a ∈ b ::ₘ bs := Eq ▸ mem_cons_self _ _
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Multiset/Basic.lean:302]:
```suggestion
    · have : a ∈ b ::ₘ bs := eq ▸ mem_cons_self _ _
```

File: Mathlib/Data/Multiset/Basic.lean [hunk 6]
```diff
@@ -17,16 +25,3137 @@ variable {α : Type _} {β : Type _} {γ : Type _}
...
+      have : a ∈ bs := by simpa [h]
+      rcases exists_cons_of_mem this with ⟨cs, hcs⟩
+      simp [h, hcs]
+      have : a ::ₘ as = b ::ₘ a ::ₘ cs := by simp [Eq, hcs]
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Multiset/Basic.lean:306]:
```suggestion
      have : a ::ₘ as = b ::ₘ a ::ₘ cs := by simp [eq, hcs]
```

File: Mathlib/Data/Multiset/Basic.lean [hunk 7]
```diff
@@ -17,16 +25,3137 @@ variable {α : Type _} {β : Type _} {γ : Type _}
...
+instance : Membership α (Multiset α) :=
+  ⟨Mem⟩
+
+@[simp]
+theorem mem_coe {a : α} {l : List α} : a ∈ (l : Multiset α) ↔ a ∈ l :=
+  Iff.rfl
+#align multiset.mem_coe Multiset.mem_coe
+
+instance decidableMem [DecidableEq α] (a : α) (s : Multiset α) : Decidable (a ∈ s) :=
+  Quot.recOnSubsingleton s <| List.decidableMem a
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Multiset/Basic.lean:230]: This might be
```suggestion
  Quot.recOnSubsingleton s <| List.instDecidableMemListInstMembershipList a
```

File: Mathlib/Data/Multiset/Basic.lean [hunk 8]
```diff
@@ -17,16 +25,3137 @@ variable {α : Type _} {β : Type _} {γ : Type _}
...
+  by
+  rw [← cons_zero, cons_eq_cons]
+  simp [eq_comm]
+#align multiset.singleton_eq_cons_iff Multiset.singleton_eq_cons_iff
+
+theorem pair_comm (x y : α) : ({x, y} : Multiset α) = {y, x} :=
+  cons_swap x y 0
+#align multiset.pair_comm Multiset.pair_comm
+
+/-! ### `multiset.subset` -/
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Multiset/Basic.lean:365]:
```suggestion
/-! ### `Multiset.Subset` -/
```

**Review by Ruben-VandeVelde — CHANGES_REQUESTED** [review]

File: Mathlib/Data/Multiset/Basic.lean [hunk 9]
```diff
@@ -2,31 +2,3202 @@
...
+theorem countp_nsmul (s) (n : ℕ) : countp p (n • s) = n * countp p s := by
+  induction n <;> simp [*, succ_nsmul', succ_mul, zero_nsmul]
+#align multiset.countp_nsmul Multiset.countp_nsmul
+
+theorem card_eq_countp_add_countp (s) : card s = countp p s + countp (fun x => ¬p x) s :=
+  Quot.inductionOn s fun l => by simp [l.length_eq_countp_add_countp p]
+#align multiset.card_eq_countp_add_countp Multiset.card_eq_countp_add_countp
+
+/-- `countp p`, the number of elements of a multiset satisfying `p`, promoted to an
+`addMonoidHom`. -/
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Multiset/Basic.lean:2288]:
```suggestion
`AddMonoidHom`. -/
```

File: Mathlib/Data/Multiset/Basic.lean [hunk 10]
```diff
@@ -2,31 +2,3202 @@
...
+def countpAddMonoidHom : Multiset α →+ ℕ
+    where
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Multiset/Basic.lean:2290]:
```suggestion
def countpAddMonoidHom : Multiset α →+ ℕ where
```

File: Mathlib/Data/Multiset/Basic.lean [hunk 11]
```diff
@@ -2,31 +2,3202 @@
...
+  toFun := countp p
+  map_zero' := countp_zero _
+  map_add' := countp_add _
+#align multiset.countp_add_monoid_hom Multiset.countpAddMonoidHom
+
+@[simp]
+theorem coe_countp_addMonoidHom : (countpAddMonoidHom p : Multiset α → ℕ) = countp p :=
+  rfl
+#align multiset.coe_countp_add_monoid_hom Multiset.coe_countp_addMonoidHom
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Multiset/Basic.lean:2299]:
```suggestion
theorem coe_countpAddMonoidHom : (countpAddMonoidHom p : Multiset α → ℕ) = countp p :=
  rfl
#align multiset.coe_countp_add_monoid_hom Multiset.coe_countpAddMonoidHom
```

File: Mathlib/Data/Multiset/Basic.lean [hunk 12]
```diff
@@ -2,31 +2,3202 @@
...
+  Quot.inductionOn s fun _l => List.countp_false
+#align multiset.countp_false Multiset.countp_false
+
+theorem countp_map (f : α → β) (s : Multiset α) (p : β → Bool) :
+    countp p (map f s) = card (s.filter fun a => p (f a)) :=
+  by
+  refine' Multiset.induction_on s _ fun a t IH => _
+  · rw [map_zero, countp_zero, filter_zero, card_zero]
+  ·
+    rw [map_cons, countp_cons, IH, filter_cons, card_add, apply_ite card, card_zero, card_singleton,
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Multiset/Basic.lean:2337]:
```suggestion
  · rw [map_cons, countp_cons, IH, filter_cons, card_add, apply_ite card, card_zero, card_singleton,
```

File: Mathlib/Data/Multiset/Basic.lean [hunk 13]
```diff
@@ -2,31 +2,3202 @@
...
+theorem count_singleton (a b : α) : count a ({b} : Multiset α) = if a = b then 1 else 0 := by
+  simp only [count_cons, ← cons_zero, count_zero, zero_add]
+#align multiset.count_singleton Multiset.count_singleton
+
+@[simp]
+theorem count_add (a : α) : ∀ s t, count a (s + t) = count a s + count a t :=
+  countp_add _
+#align multiset.count_add Multiset.count_add
+
+/-- `count a`, the multiplicity of `a` in a multiset, promoted to an `addMonoidHom`. -/
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Multiset/Basic.lean:2434]:
```suggestion
/-- `count a`, the multiplicity of `a` in a multiset, promoted to an `AddMonoidHom`. -/
```

File: Mathlib/Data/Multiset/Basic.lean [hunk 14]
```diff
@@ -2,31 +2,3202 @@
...
+def countAddMonoidHom (a : α) : Multiset α →+ ℕ :=
+  countpAddMonoidHom (· == a)
+#align multiset.count_add_monoid_hom Multiset.countAddMonoidHom
+
+@[simp]
+theorem coe_count_addMonoidHom {a : α} : (countAddMonoidHom a : Multiset α → ℕ) = count a :=
+  rfl
+#align multiset.coe_count_add_monoid_hom Multiset.coe_count_addMonoidHom
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Multiset/Basic.lean:2442]:
```suggestion
theorem coe_countAddMonoidHom {a : α} : (countAddMonoidHom a : Multiset α → ℕ) = count a :=
  rfl
#align multiset.coe_count_add_monoid_hom Multiset.coe_countAddMonoidHom
```

File: Mathlib/Data/Multiset/Basic.lean [hunk 15]
```diff
@@ -2,31 +2,3202 @@
...
+  simp only [h, if_false, zero_min]
+#align multiset.repeat_inf Multiset.repeat_inf
+
+theorem count_map {α β : Type _} (f : α → β) (s : Multiset α) [DecidableEq β] (b : β) :
+    count b (map f s) = card (s.filter fun a => b = f a) := by
+  simp [Bool.beq_eq_decide_eq, eq_comm, count, countp_map]
+#align multiset.count_map Multiset.count_map
+
+/- ./././Mathport/Syntax/Translate/Basic.lean:632:2: warning:
+  expanding binder collection (x «expr ∈ » s) -/
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Multiset/Basic.lean:2597]: This is fine, IMO
```suggestion
/- ./././Mathport/Syntax/Translate/Basic.lean:632:2: warning:
  expanding binder collection (x «expr ∈ » s) -/
```

File: Mathlib/Data/Multiset/Basic.lean [hunk 16]
```diff
@@ -2,31 +2,3202 @@
...
+set_option linter.deprecated false in
+@[simp]
+theorem inter_repeat (s : Multiset α) (x : α) (n : ℕ) :
+    s ∩ «repeat» x n = «repeat» x (min (s.count x) n) := by rw [inter_comm, repeat_inter, min_comm]
+#align multiset.inter_repeat Multiset.inter_repeat
+
+end
+
+@[ext]
+theorem add_hom_ext [AddZeroClass β] ⦃f g : Multiset α →+ β⦄ (h : ∀ x, f {x} = g {x}) : f = g :=
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Multiset/Basic.lean:2670]: `addHom_ext`?

File: Mathlib/Data/Multiset/Basic.lean [hunk 17]
```diff
@@ -2,31 +2,3202 @@
...
+  match s, exists_multiset_eq_map_quot_mk s with
+  | _, ⟨_t, rfl⟩ => fun h => h _
+#align multiset.induction_on_multiset_quot Multiset.induction_on_multiset_quot
+
+end Quot
+
+/-! ### Disjoint multisets -/
+
+
+/-- `disjoint s t` means that `s` and `t` have no elements in common. -/
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Multiset/Basic.lean:2972]:
```suggestion
/-- `Disjoint s t` means that `s` and `t` have no elements in common. -/
```

File: Mathlib/Data/Multiset/Basic.lean [hunk 18]
```diff
@@ -2,31 +2,3202 @@
...
+  simp_rw [← inter_eq_zero_iff_disjoint, ext, count_add, count_union, count_inter, count_zero,
+    Nat.min_eq_zero_iff, Nat.add_eq_max_iff]
+#align multiset.add_eq_union_iff_disjoint Multiset.add_eq_union_iff_disjoint
+
+theorem disjoint_map_map {f : α → γ} {g : β → γ} {s : Multiset α} {t : Multiset β} :
+    Disjoint (s.map f) (t.map g) ↔ ∀ a ∈ s, ∀ b ∈ t, f a ≠ g b := by
+  simp [Disjoint, @eq_comm _ (f _) (g _)]
+#align multiset.disjoint_map_map Multiset.disjoint_map_map
+
+/-- `pairwise r m` states that there exists a list of the elements s.t. `r` holds pairwise on this
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Multiset/Basic.lean:3081]:
```suggestion
/-- `Pairwise r m` states that there exists a list of the elements s.t. `r` holds pairwise on this
```

File: Mathlib/Data/Multiset/Basic.lean [hunk 19]
```diff
@@ -2,31 +2,3202 @@
...
+
+end Multiset
+
+namespace Multiset
+
+section Choose
+
+variable (p : α → Prop) [DecidablePred p] (l : Multiset α)
+
+/-- Given a proof `hp` that there exists a unique `a ∈ l` such that `p a`, `choose_x p l hp` returns
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Multiset/Basic.lean:3118]:
```suggestion
/-- Given a proof `hp` that there exists a unique `a ∈ l` such that `p a`, `chooseX p l hp` returns
```

File: Mathlib/Data/Multiset/Basic.lean [hunk 20]
```diff
@@ -2,31 +2,3202 @@
...
+  right_inv m := Quot.inductionOn m fun _ => rfl
+#align multiset.subsingleton_equiv Multiset.subsingletonEquiv
+
+variable {α}
+
+@[simp]
+theorem coe_subsingleton_equiv [Subsingleton α] :
+    (subsingletonEquiv α : List α → Multiset α) = ofList :=
+  rfl
+#align multiset.coe_subsingleton_equiv Multiset.coe_subsingleton_equiv
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Multiset/Basic.lean:3175]:
```suggestion
theorem coe_subsingletonEquiv [Subsingleton α] :
    (subsingletonEquiv α : List α → Multiset α) = ofList :=
  rfl
#align multiset.coe_subsingleton_equiv Multiset.coe_subsingletonEquiv
```
